US08461204B2
Synthesis of ((E)-4-((R)-1-carboxy-2-((2E,6E)-3,7,11-trimethyldodeca-2,6,10-trienylthio)ethylamino)-4-oxobut-2-enoic acid) (Compound A)
To a solution of S-trans, trans-farnesyl-L-cysteine (500 mg, 1.54 mmol) in THF and first portion of K2CO3 (3 mmol) was cooled to 5° C. with vigorous stirring. To this stirred solution was added maleic anhydride (302 mg, 3.07 mmol) portions wise while maintaining the PH at 9-10 with another portion of K2CO3 (3 mmol). The mixture was stirred at room temperature for 3 h, HPLC analysis showed completion of the reaction. The pH of the reaction mixture then adjusted to 2 by the addition of 2N HCl solution. The acidic solution was extracted three times with 15 ml of ethyl acetate. The combined organic extract was washed with water, brine and dried over sodium sulfate and then concentrated to afford crude product, which was further purified by preparative HPLC (552 mg, 85% yield): 1H-NMR (500 MHz, CD3OD) δ 1.50 (bs, 6H), 1.57 (s, 3H), 1.59 (s, 3H), 1.85-2.10 (m, 8H), 2.68 (dd, J=6.5, 14.5, 1H), 2.95 (dd, J=4.5, 14.0 Hz, 1H), 3.07 (dd, J=7.0, 13.0 Hz, 1H), 3.17 (dd, J=8.5, 13.5 Hz, 1H), 4.59 (dd, J=4.5, 8.5), 4.97-5.02 (m, 2H), 5.12 (t, J=7.5, 1H), 6.21 (d, J=13.0 Hz, 1H), 6.47 (d, J=13.0 Hz, 1H); 13C-NMR (125 MHz, CDCl3) δ 16.2, 16.3, 17.8, 25.3, 26.0, 27.4, 27.8, 30.3, 33.3, 40.8, 40.9, 54.0, 121.5, 125.1, 125.5, 132.1, 133.3, 134.4, 136.3, 140.7, 167.7, 168.0, 172.9; ES-MS: mass calcd for Chemical Formula: C22H33NO5S 423.6 (M+). Found (M+Na) m/z 446.

reactant | trans-farnesyl-L-cysteine | 1.54 mmol, 500 mg | CC(=CCC/C(=C/CC/C(=C/CSC[C@@H](C(=O)O)N)/C)/C)C | C18H31NO2S
reactant | K2CO3 | 3 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | maleic anhydride | 3.07 mmol, 302 mg | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | K2CO3 | 3 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 2N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | (E)-4-((R)-1-carboxy-2-((2E,6E)-3,7,11-trimethyldodeca-2,6,10-trienylthio)ethylamino)-4-oxobut-2-enoic acid | 85% yield | C(=O)(O)[C@H](CSC\C=C(\CC\C=C(\CCC=C(C)C)/C)/C)NC(/C=C/C(=O)O)=O | C22H33NO5S
